US04730006
In a 2 L three-necked flask, L-alanine (54.0 g) is dissolved in 2N NaOH (305 mL) and cooled to 0° C. in an ice-bath. To this solution, carbobenzoxychloride (90 mL) and 2N NaOH (305 mL) are simultaneously added dropwise so that the reaction temperature does not exceed 5° C. After complete addition, the ice-bath is removed and the reaction mixture stirred for 2 hours at room temperature. Diethylether is added (100 mL) and the organic phase is separated. The aqueous phase is washed once more with Et2O (100 mL), and acidified to pH 1 with HCl (2N). Ethylacetate (150 mL) is added, and the organic phase is separated. The aqueous phase is extracted with AcOEt (3×150 mL), and the combined organic phases are washed with H2O (3×100 mL). After drying (MgSO4), the solvent is removed (20 Torr/30° C.) to leave a colorless oil, which crystallizes upon standing (110 g). Recrystallization (AcOEt/hexane) affords 100 mg (73%) of benzyloxycarbonyl-L-alanine, m.p. 85° C.; [α]23 =-14.3 (c=2 in AcOH).

reactant | carbobenzoxychloride | 90 mL | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | L-alanine | 54.0 g | N[C@@H](C)C(=O)O | C3H7NO2
solvent | NaOH | 2N, 305 mL | [OH-].[Na+]
solvent | NaOH | 2N, 305 mL | [OH-].[Na+]
product | benzyloxycarbonyl-L-alanine | 100 mg, 73% | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
